US04568695
(2-Amino-3-benzoylphenyl)acetic Acid, Ethyl Ester
A solution of 2.5 g (0.009 mole) of (2-amino-3-benzoylphenyl)acetic acid, sodium salt in 25 ml of dry dimethylformamide was treated with 5 g of ethyl iodide (0.035 mole) and stirred with a magnetic stirrer at room temperature for 2 hours. The reaction mixture was then added to water and extracted several times with ethyl ether. The ether extracts, after being washed with water, were dried over sodium sulfate and stripped under vacuum to leave a yellow solid residue. This residue was recrystallized from absolute ethyl alcohol to give 1.7 g (61%) of the titled compound as yellow needles, m.p. 77°-78° C.

reactant | (2-amino-3-benzoylphenyl)acetic acid | 0.009 mole, 2.5 g | NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)O | C15H13NO3
reactant | sodium | [Na] | Na
reactant | ethyl iodide | 0.035 mole, 5 g | C(C)I | C2H5I
reactant | water | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (2-Amino-3-benzoylphenyl)acetic Acid, Ethyl Ester | 1.7 g, 61% | NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)OCC | C17H17NO3
